US08609653B2
2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(3-fluoro-4-methoxybenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid
The title compound was prepared in a manner similar to that described in Example 27, Step H from methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate and 3-fluoro-4-methoxybenzyl bromide. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.51-7.41 (m, 1 H), 7.25-7.18 (m, 1 H), 7.07-6.99 (m, 3 H), 6.97-6.88 (m, 2 H), 6.31-6.23 (m, 1 H), 5.63-5.56 (m, 1 H), 5.53-5.36 (m, 2 H), 4.32-4.26 (m, 2 H), 3.90-3.86 (m, 3 H), 2.96-2.80 (m, 2 H), 2.75 (s, 3 H), 2.14-2.04 (m, 2 H), 0.97 (s, 9H); LC/MS (m/z) ES+=533.28 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)NC=C2)C=2C=C1CCCOC1=CC2 | C24H28N2O4
reactant | 3-fluoro-4-methoxybenzyl bromide | FC=1C=C(CBr)C=CC1OC | C8H8BrFO
product | 2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(3-fluoro-4-methoxybenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid | C(C)(C)(C)OC(C(=O)O)C=1C(=C2C(=NC1C)N(C=C2)CC2=CC(=C(C=C2)OC)F)C=2C=C1CCCOC1=CC2 | C31H33FN2O5
